US06777430B2
c) 1-[2-(2,4-Difluorophenyl)ethyl]-4-[4-(tetrazol-1-ylmethyl)phenylsulphonyl]piperidine
1-[2-(2,4-Difluorophenyl)ethyl]-4-(4-hydroxymethylphenylsulphonyl)piperidine (0.20 g, 0.51 mmol) was dissolved in anhydrous THF (10 ml) under nitrogen at 0° C. Et3N (0.14 ml, 1 mmol) and methanesulphonyl chloride (0.078 ml, 1 mmol) were added dropwise. The mixture was stirred at room temperature for 1 h, quenched with water and extracted into EtOAc. The organic extracts were combined, washed with water, dried (MgSO4) and solvent evaporated. The residue was dissolved in IPA (20 ml), and heated to reflux overnight with NaI (0.076 g), Cs2CO3 (0.197 g) and 1H-tetrazole (1.06 g, 15 mmol). The reaction mixture was cooled to room temperature and concentrated. The residue was partitioned between water and CH2Cl2 and the organic layer was washed with water, dried (MgSO4) and concentrated. Purification by column chromatography (SiO2; EtOAc:pet. ether 60-80° 1:1 to EtOAc:MeOH 99:1) gave the title compound, m.p. 168-169° C. (Found: C, 56.00; H, 4.91; N, 15.82. C21H23N5O2SF2 requires C, 56.36; H, 5.18; N, 15.63). δH (360 MHz, CDCl3) 1.64-1.77 (2H, m), 1.97-2.05 (4H, m), 2.48-2.53 (2H, m), 2.70-2.76 (2H, m), 2.86-2.95 (1H, m), 3.01-3.10 (2H, m), 5.71 (2H, s), 6.72-6.80 (2H, m), 7.08-7.15 (1H, m), 7.46 (2H, d, J 8 Hz), 7.91 (2H, d, J 8 Hz), 8.65 (1H, s).

reactant | 1-[2-(2,4-Difluorophenyl)ethyl]-4-(4-hydroxymethylphenylsulphonyl)piperidine | 0.51 mmol, 0.20 g | FC1=C(C=CC(=C1)F)CCN1CCC(CC1)S(=O)(=O)C1=CC=C(C=C1)CO | C20H23F2NO3S
reactant | Et3N | 1 mmol, 0.14 ml | CCN(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 1 mmol, 0.078 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaI | 0.076 g | [Na+].[I-]
reactant | Cs2CO3 | 0.197 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1H-tetrazole | 15 mmol, 1.06 g | N1N=NN=C1 | CH2N4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-[2-(2,4-Difluorophenyl)ethyl]-4-[4-(tetrazol-1-ylmethyl)phenylsulphonyl]piperidine | FC1=C(C=CC(=C1)F)CCN1CCC(CC1)S(=O)(=O)C1=CC=C(C=C1)CN1N=NN=C1 | C21H23F2N5O2S
